US05164397
a) 2-Bromo-N-(triphenylmethyl)ethanamine
272.1 g (976 mmol) of triphenylchloromethane, 800 ml of dichloromethane and 200 g (976 mmol) of 2-bromoethanamine hydrobromide are introduced into a 2-1 round bottom flask placed under nitrogen. The mixture is stirred and 300 ml of triethylamine are added dropwise and stirring is continued for 48 h. The triethylamine hydrochloride which precipitates is separated off, water is added to the filtrate, the organic phase is separated off and is washed with water and dried over sodium sulphate, and the solvent is evaporated off. An oil is obtained, which is purified by chromatography on a column of silica gel. After recrystallisation from a mixture of dichloromethane and cyclohexane 273.17 g of white solid are obtained. Melting point: 108°-109° C.

reactant | triphenylchloromethane | 976 mmol, 272.1 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | dichloromethane | 800 ml | ClCCl | CH2Cl2
reactant | 2-bromoethanamine hydrobromide | 976 mmol, 200 g | Br.BrCCN
solvent | triethylamine | 300 ml | C(C)N(CC)CC | C6H15N
product | 2-Bromo-N-(triphenylmethyl)ethanamine | BrCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20BrN
